US09029544B2
(9S)-9-(tert-Butyldimethylsilyloxy)-4-isopropyl-7,7-dimethyl-3-(4-(trifluoromethyl)phenyl)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-3-ol
0.12 g 1-Iodo-4-(trifluoromethyl)benzene are dissolved in 3 ml tetrahydrofurane, cooled to −78° C. and treated dropwise with 0.54 ml of a 1.6 M solution of tert.-butyllithium in n-pentan. The mixture is stirred for 30 minutes and then a solution of 0.10 g (S)-9-(tert-butyldimethylsilyloxy)-4-isopropyl-7,7-dimethyl-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-3-one in 1 ml tetrahydrofurane is added dropwise. The mixture is stirred for 30 minutes at −78° C. and for 1 hour at −40° C. Then the reaction is quenched by addition of 0.5 ml methanol and purified via reversed phase chromatography (Varian Pursiut XRs C18 10μ, water/methanol/trifluoroacetic acid 90:10:0.1 to 0:100:0.1; 180 mL/min; 18 min).

reactant | 1-Iodo-4-(trifluoromethyl)benzene | 0.12 g | IC1=CC=C(C=C1)C(F)(F)F | C7H4F3I
reactant | tert.-butyllithium | C(C)(C)(C)[Li]
reactant | (S)-9-(tert-butyldimethylsilyloxy)-4-isopropyl-7,7-dimethyl-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-3-one | 0.10 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C3=C(C(=NC2CC(C1)(C)C)C(C)C)C(OC31CCOCC1)=O | C26H41NO4Si
solvent | tetrahydrofurane | 3 ml | O1CCCC1 | C4H8O
solvent | n-pentan | CCCCC | C5H12
solvent | tetrahydrofurane | 1 ml | O1CCCC1 | C4H8O
product | (9S)-9-(tert-Butyldimethylsilyloxy)-4-isopropyl-7,7-dimethyl-3-(4-(trifluoromethyl)phenyl)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-3-ol | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C3=C(C(=NC2CC(C1)(C)C)C(C)C)C(OC31CCOCC1)(O)C1=CC=C(C=C1)C(F)(F)F | C33H46F3NO4Si
